US04735940
(ca) 8.05 g of 3,4-dihydro-thieno[2,3-f][1,4]thiazepine-5(2H)-thione were suspended in 40 ml of methylene chloride and treated under argon with a solution of 7.1 ml of diethyl bromomalonate in 40 ml of methylene chloride. After stirring for 2.5 hours, 50 ml of 10 percent potassium hydrogen carbonate solution were added thereto and the mixture was stirred for 30 minutes. The organic phase was separated and the aqueous phase was extracted twice with methylene chloride. After drying with sodium sulfate, the extract was chromatographed on silica gel, whereby diethyl[3,4-dihydrothieno[2,3-f][1,4]thiazepine-8-(5H)-ylidene]malonate was obtained in the form of slightly yellowish crystals of m.p. 87°-89° (cyclohexane).

reactant | 3,4-dihydro-thieno[2,3-f][1,4]thiazepine-5(2H)-thione | 8.05 g | S1CCNC(C2=C1C=CS2)=S | C7H7NS3
reactant | diethyl bromomalonate | 7.1 ml | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | potassium hydrogen carbonate | 50 ml | C(O)([O-])=O.[K+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | diethyl[3,4-dihydrothieno[2,3-f][1,4]thiazepine-8-(5H)-ylidene]malonate | C(C)OC(C(C(=O)OCC)=C1CSC=2CNCCSC21)=O | C14H19NO4S2
